US05852014
Methyl pyrimido[1,2-a]indole-10-Carboxylate
A stirred solution of methyl 2-aminoindole-3-carboxylate (I. Forbes et al, J. Chem. Soc. Perkin I, 1992, 275) (0.5 g, 0.0026 mole) in xylene (10 ml) was treated with 1,1,3,3-tetramethoxypropane (0.43 g, 0.0026 mole) and a few crystals of 4-toluenesulphonic acid and heated under reflux for 2.5 h. The mixture was concentrated in vacuo and the residue dissolved in chloroform (25 ml), washed with water (2×10 ml), dried (MgSO4) and concentrated in vacuo to leave a dark orange solid. This was purified by chromatography on silica gel eluting with ethyl acetate to afford the title compound (D19) as an orange solid (0.23 g, 35%).

reactant | methyl 2-aminoindole-3-carboxylate | 0.0026 mole, 0.5 g | NC=1NC2=CC=CC=C2C1C(=O)OC | C10H10N2O2
reactant | 1,1,3,3-tetramethoxypropane | 0.0026 mole, 0.43 g | COC(CC(OC)OC)OC | C7H16O4
reactant | 4-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Methyl pyrimido[1,2-a]indole-10-Carboxylate | N1=CC=CN2C1=C(C=1C=CC=CC21)C(=O)OC | C13H10N2O2
